US09427475B2
Step A: benzyl [(2S)-1,5-dioxin-1,5-bus({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)pentane-2-yl]carbamate
To a solution of N-[(benzyl)carbonyl]-L-glutei acid (1.1 g, 3.91 mmol) and 2-amino ethyl α-L-fucopyranoside (2.026 g, 9.78 mmol) in DMF (10 mL) was added EDC (3.00 g, 15.64 mmol) and DMAP (0.048 g, 0.391 mmol). After stirring at rt for 24 hr, the reaction mixture was concentrated and the residue was purified by flash chromatography on silica gel (80 g), eluting with 100% EtOAc for 5 column volume and then isocratic EtOAc:AcCN:MeOH 6:1:1 to give the title compound. 1H NMR (CD3OD) δ 7.38-7.29 (m, 5H), 5.13-5.05 (m, 2H), 4.76 (s, 2H), 4.09 (dd, J=5.3, 8.6, 1H), 3.95-3.91 (m, 2H), 3.74-3.65 (m, 6H), 3.53-3.25 (m, 8H), 2.30 (t, J=7.5, 2H), 2.06-2.04 (m, 1H), 1.92-1.89 (m, 1H), 1.19 (d, J=6.5, 6H).

reactant | 2-amino ethyl α-L-fucopyranoside | 9.78 mmol, 2.026 g | O([C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CCN | C8H17NO5
reactant | EDC | 15.64 mmol, 3.00 g
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.391 mmol, 0.048 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | EtOAc AcCN MeOH | CCOC(=O)C.C(=O)(C)C#N.CO | InChI=1S/C4H8O2.C3H3NO.CH4O/c1-3-6-4(2)5;1-3(5)2-4;1-2/h3H2,1-2H3;1H3;2H,1H3
